US07414107B2
Hydrolysis Kinetics in Leucine Aminopeptidase
The degradation of H-Arg-Pro-Lys-Pro-Gln-Gln-Phe-Phe-Gly-Leu-Met-NH2 (SEQ ID NO: 112) (˜7.4×10−5 M) in 50 mM phosphate buffer solutions of pH 7.4 containing carboxypeptidase A (1 U/ml) was studied as described above. The pseudo first-order rate constant for the degradation was estimated to 2.0×10−2 min−1 and the corresponding half-life calculated to 35 min as previously described.

reactant | H-Arg-Pro-Lys-Pro-Gln-Gln-Phe-Phe-Gly-Leu-Met-NH2 | N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](CCCCN)C(=O)N2[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC2)CCC1 | C63H98N18O13S
reactant | phosphate | 50 mM | P(=O)([O-])([O-])[O-]
product | Leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
